US09278983B2
To a mixture of 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (0.20 g) and chloroform (3 ml), 3-chloroperbenzoic acid (purity: not less than 65%) (0.34 g) was added under ice-cooling, and then heated to room temperature, and stirred for 3.5 hours. Chloroform and saturated aqueous sodium thiosulfate solution were poured thereinto under ice-cooling, and stirred, and then, water was poured, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The resulting solid was washed with hexane, and dried to give 0.20 g of 6-bromo-2-(2-ethylsulfonylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 44).

reactant | 6-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.20 g | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 3-chloroperbenzoic acid | 0.34 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 6-bromo-2-(2-ethylsulfonylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.20 g | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)S(=O)(=O)CC)C | C15H14BrN3O2S
